US07482452B2
Sodium 3-cyano-6-oxo-1-phenyl-1,6-dihydropyridine-2-thiolate
Sodium methoxide (2.88 g) was added to EtOAc (8.7 mL), cooled to +14° C. To the resulting suspension was added methyl formate (2.2 mL) slowly over 4.3 h whilst maintaining the reaction temperature at +14° C. After this time, the temperature was adjusted to +25° C. and the reaction was allowed to stir out at this temperature overnight. Absolute EtOH (25 mL) and a solution of sodium methoxide in MeOH (30 wt %, 6.7 mL) were then added followed by 2-cyano-N-phenylthioacetamide (5 g) and the resulting mixture was heated at reflux for 24 h. The reaction was cooled to +5° C. when the product was recovered by filtration. The filter cake was washed with cold (+5° C.) absolute EtOH (20 ml) and then dried to constant weight under vacuum at 45° C. to give the title compound as a pale pink solid (2.77 g; equivalent to 2.63 g at 100%). δH (DMSO-d6) 7.32 (2H, m), 7.27-7.18 (1H, m), 7.16 (1H, d, J 9.1 Hz), 6.92 (2H, m), 5.63 (1H, d, J 9.1 Hz). LCMS (ES+) RT 2.43 minutes, 229 (M+H)+.

reactant | Sodium methoxide | 2.88 g | C[O-].[Na+]
reactant | EtOAc | 8.7 mL | CCOC(=O)C | C4H8O2
reactant | methyl formate | 2.2 mL | C(=O)OC | C2H4O2
reactant | 2-cyano-N-phenylthioacetamide | 5 g | C(#N)CC(=S)NC1=CC=CC=C1 | C9H8N2S
solvent | MeOH | 6.7 mL | CO | CH4O
solvent | EtOH | 25 mL | CCO | C2H6O
product | Sodium 3-cyano-6-oxo-1-phenyl-1,6-dihydropyridine-2-thiolate | 2.77 g, 100% | C(#N)C1=C(N(C(C=C1)=O)C1=CC=CC=C1)[S-].[Na+] | InChI=1S/C12H8N2OS.Na/c13-8-9-6-7-11(15)14(12(9)16)10-4-2-1-3-5-10;/h1-7,16H;/q;+1/p-1
